US08389569B2
ethyl 3-oxo-4-(triphenylphosphoranylidene)butanoate (5′-2)
triphenylphosphine (30.0 g, 114.3 mmol) is added, at ambient temperature, to a solution of commercial ethyl 4-chloro-3-oxobutanoate (18.81 g, 114.3 mmol) in 200 mL of anhydrous THF. The reaction medium is taken to reflux for 18 h before being concentrated under vacuum. The oil obtained is taken up in distilled water then washed with ether. The aqueous phase is then basified by a saturated aqueous solution of NaHCO3 (up to pH 8). After extraction with AcOEt, the organic phases are combined, dried over MgSO4, filtered then concentrated under vacuum. Purification is carried out by recrystallization from ether in order to produce, after filtration and drying, compound 5′-2 (14.96 g, 38.0 mmol, 34%) in the form of a slightly yellow solid.

reactant | triphenylphosphine | 114.3 mmol, 30.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 4-chloro-3-oxobutanoate | 114.3 mmol, 18.81 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-oxo-4-(triphenylphosphoranylidene)butanoate | O=C(CC(=O)OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23O3P
